US07432270B2
((S)-1-{1-[4-(4-Fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanoyl}-piperidin-2-ylmethyl)-carbamic acid pert butyl ester
The title compound (3.96 g) was prepared from (S)-1-piperidin-2-ylmethyl-carbamic acid tert butyl ester (2.14 g) and 4-(4-fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl carboxylic acid (2.20 g) according to the method of D40.

reactant | (S)-1-piperidin-2-ylmethyl-carbamic acid tert butyl ester | 2.14 g | C(C)(C)(C)OC(NC[C@H]1NCCCC1)=O | C11H22N2O2
reactant | 4-(4-fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl carboxylic acid | 2.20 g | FC1=CC=C(C=C1)C=1C(=NN(C1)C)C(=O)O | C11H9FN2O2
product | ((S)-1-{1-[4-(4-Fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanoyl}-piperidin-2-ylmethyl)-carbamic acid | 3.96 g | FC1=CC=C(C=C1)C=1C(=NN(C1)C)C(=O)N1[C@@H](CCCC1)CNC(O)=O | C18H21FN4O3
